US08022062B2
1-Methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropane-1-sulfinyl)-benzene:
To 1-methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropylthio)benzene (4.5 g, 14.9 mmol) in acetic acid (15 mL) at ambient temperature, add with stirring aqueous hydrogen peroxide (15 mL, 30% in water) and stir for 1 h. Dilute the reaction with water, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give the desired intermediate as a colorless oil (4.125 g, 88%).

reactant | 1-methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropylthio)benzene | 14.9 mmol, 4.5 g | CC1=CC=C(C=C1)SCC(C(F)(F)F)(C(F)(F)F)C | C12H12F6S
reactant | hydrogen peroxide | 15 mL | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-Methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropane-1-sulfinyl)-benzene | 4.125 g, 88% | CC1=CC=C(C=C1)S(=O)CC(C(F)(F)F)(C(F)(F)F)C | C12H12F6OS
